US08895497B2
N2-[1-benzyl-2-(1-[(1,2-dimethylhydrazino)carbonyl]-3-methylbutylamino)-2-oxoethyl]-2-pyrazinecarboxamide (100 mg, 0.23 mmol) and sodium acetate (53 mg, 0.64 mmol) were dissolved in methanol (1 mL). Cyanogen bromide (49 mg, 0.46 mmol) was added and the solution was stirred for 4 h. Methanol was concentrated by rotary evaporation. The pH value was adjusted (5% NaHSO3) to 1-2. The solution was extracted by EtOAc, and washed with water and brine. The organic layer was dried over Na2SO4, filtered, and concentrated by rotary evaporation. Purification by chromatography (silica, 1/1: Hexane/EtOAc, Rf=0.3) afforded N2-[1-benzyl-2-(1-[(2-cyano-1,2-dimethylhydrazino)carbonyl]-3-methylbutylamino)-2-oxoethyl]-2-pyrazinecarboxamide as pale yellow solid (67 mg, 65%).

reactant | N2-[1-benzyl-2-(1-[(1,2-dimethylhydrazino)carbonyl]-3-methylbutylamino)-2-oxoethyl]-2-pyrazinecarboxamide | 0.23 mmol, 100 mg | C(C1=CC=CC=C1)C(C(=O)NC(CC(C)C)C(=O)N(NC)C)NC(=O)C1=NC=CN=C1 | C22H30N6O3
reactant | sodium acetate | 0.64 mmol, 53 mg | C(C)(=O)[O-].[Na+]
reactant | Cyanogen bromide | 0.46 mmol, 49 mg | N#CBr | CBrN
solvent | methanol | 1 mL | CO | CH4O
product | N2-[1-benzyl-2-(1-[(2-cyano-1,2-dimethylhydrazino)carbonyl]-3-methylbutylamino)-2-oxoethyl]-2-pyrazinecarboxamide | 67 mg, 65% | C(C1=CC=CC=C1)C(C(=O)NC(CC(C)C)C(=O)N(N(C)C#N)C)NC(=O)C1=NC=CN=C1 | C23H29N7O3
